US06407243B1
[2-(4-Methoxyphenyl)-6-methoxybenzofuran-3-yl][4-[2-diethylaminoethoxy]phenyl]methanol
1.420 g (3 mmol) of [2-(4-methoxyphenyl)-6-methoxybenzofuran-3-yl][4-[2-diethylaminoethoxy]phenyl]methanone was reduced to the carbinol by the method described in Example 1. This yielded 1.07 g of the title compound as an oil.

reactant | [2-(4-methoxyphenyl)-6-methoxybenzofuran-3-yl][4-[2-diethylaminoethoxy]phenyl]methanone | 3 mmol, 1.420 g | COC1=CC=C(C=C1)C=1OC2=C(C1C(=O)C1=CC=C(C=C1)OCCN(CC)CC)C=CC(=C2)OC | C29H31NO5
solvent | carbinol | CO | CH4O
product | [2-(4-Methoxyphenyl)-6-methoxybenzofuran-3-yl][4-[2-diethylaminoethoxy]phenyl]methanol | 1.07 g | COC1=CC=C(C=C1)C=1OC2=C(C1C(O)C1=CC=C(C=C1)OCCN(CC)CC)C=CC(=C2)OC | C29H33NO5
